US04046772
To a solution of 0.38 g. of 8-chloro-4-hydroxy-6-phenyl-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide (3/2 hydrate) in 5 ml. of pyridine is added 0.2 ml. of acetic anhydride and the mixture is left to stand at room temperature for 2 hours, followed by addition of water. The precipitated crystals are collected by filtration to yield 4-acetoxy-8-chloro-6-phenyl-4H-s-triazolo[1,5-a][1,4]-benzodiazepine-2-carboxamide as crystals. This product is identical with the product in Example 1 with respect to melting point and infrared absorption spectrum.

reactant | 8-chloro-4-hydroxy-6-phenyl-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide | ClC=1C=CC2=C(C(=NC(C=3N2N=C(N3)C(=O)N)O)C3=CC=CC=C3)C1 | C17H12ClN5O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 4-acetoxy-8-chloro-6-phenyl-4H-s-triazolo[1,5-a][1,4]-benzodiazepine-2-carboxamide | C(C)(=O)OC1C=2N(C3=C(C(=N1)C1=CC=CC=C1)C=C(C=C3)Cl)N=C(N2)C(=O)N | C19H14ClN5O3
